US08865744B1
79.0 mg (0.23 mmol) of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxyimino-1,1-dimethyl-ethyl)-isoxazol-5-yl]amide are added to 1.00 mL trifluoroacetic anhydride and stirred at 100° C. for 3 h. The solvent is removed under reduced pressure. The residue is purified by HPLC-MS to afford 32.6 mg of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid[3-(cyano-dimethyl-methyl)-isoxazol-5-yl]amide. Yield: 44%; ESI-MS: 333 [M+H]+; HPLC (Rt): 0.66 min (method F); 1H-NMR (400 MHz, DMSO-d6): 1.31-1.53 (m, 2H), 1.57-1.65 (m, 1H), 1.69 (s, 6H), 1.69-1.81 (m, 4H), 2.01-2.14 (m, 1H), 2.50-2.66 (m, 2H), 3.08-3.14 (m, 1H), 3.20-3.32 (m, 2H), 3.47-3.52 (m, 1H), 3.77-3.88 (m, 2H), 6.46 (s, 1H), 9.70 (s, 1H) ppm.

reactant | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxyimino-1,1-dimethyl-ethyl)-isoxazol-5-yl]amide | 0.23 mmol, 79.0 mg | ON=CC(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1 | C17H26N4O4
reactant | trifluoroacetic anhydride | 1.00 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid[3-(cyano-dimethyl-methyl)-isoxazol-5-yl]amide | 32.6 mg, Yield: 44% | C(#N)C(C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1)(C)C | C17H24N4O3
